US07645771B2
Preparation of N-{1-ethyl-1-[(4-(3-fluorophenyl)-4-{2-[(1R,5S)-3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}-1-piperidinyl) carbonyl]propyl}-2,2,2-trifluoroacetamide
2-Amino-2-ethyl-1-(4-(3-fluoro-phenyl)-4-{2-[3-(2-methyl-benzoimidazol-1-yl)-8-aza-bicyclo[3.2.1]oct-8-yl]-ethyl}-piperidin-1-yl)-butan-1-one example 890 (0.100 g, 0.178 mmol), trifluoroacetic anhydride (0.038 g, 0.178 mmol) and DIEA (0.069 g, 0.534 mmol) as outlined in procedure for procedure for Example 890 to give title compound, N-{1-ethyl-1-[(4-(3-fluorophenyl)-4-{2-[(1R,5S)-3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}-1-piperidinyl) carbonyl]propyl}-2,2,2-trifluoroacetamide (0.061 g, 52%). ES-LCMS m/z 656 (M+1).

reactant | 2-Amino-2-ethyl-1-(4-(3-fluoro-phenyl)-4-{2-[3-(2-methyl-benzoimidazol-1-yl)-8-aza-bicyclo[3.2.1]oct-8-yl]-ethyl}-piperidin-1-yl)-butan-1-one | NC(C(=O)N1CCC(CC1)(CCN1C2CC(CC1CC2)N2C(=NC1=C2C=CC=C1)C)C1=CC(=CC=C1)F)(CC)CC | C34H46FN5O
reactant | trifluoroacetic anhydride | 0.178 mmol, 0.038 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | DIEA | 0.534 mmol, 0.069 g | CCN(C(C)C)C(C)C | C8H19N
product | N-{1-ethyl-1-[(4-(3-fluorophenyl)-4-{2-[(1R,5S)-3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}-1-piperidinyl) carbonyl]propyl}-2,2,2-trifluoroacetamide | 0.061 g, 52% | C(C)C(CC)(C(=O)N1CCC(CC1)(CCN1[C@H]2CC(C[C@@H]1CC2)N2C(=NC1=C2C=CC=C1)C)C1=CC(=CC=C1)F)NC(C(F)(F)F)=O | C36H45F4N5O2
